Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]1([H:8])([H:10])[O:2][C:3](=[O:4])[C:5]([H:11])([H:12])[C@@:6]1([O:7][H:9])[H:13]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],76.49662287282496
[C-:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[O+:6]1.[H:7][H:8]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],36.64723029563649
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N:2]([C:3](=[O:4])[H:10])[H:11])([H:7])([H:8])[H:9],46.6829010628125
[C:1]([C:2](=[C:4]=[O:5])[H:10])([H:7])([H:8])[H:9].[C:3]([C:6]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],77.94450051757802
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]([C@@:7]1([H:13])[C@:5]([O+:4]=[C-:3][H:9])([H:10])[C:6]1([H:11])[H:12])[H:8],66.7488342186812
[C:1]([N:2]1[C:3]([H:11])[O:4][C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:7][H:16]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],23.84623878780259
[O:1]([C:5]([C:4]1=[C+:3][C:2]1([H:8])[H:9])=[N-:6])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],17.10630830367029
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[N:6][O:4][H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],38.41966274208238
[C:1]([C@:2]1([O:5][H:13])[C:4](=[C:3]([H:11])[H:12])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],62.21782756526841
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:6][C:5](=[O+:4][C-:3]([H:13])[H:14])[N:7]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],97.83474930828122
[C:1]([C:2](=[C:3]=[N:4][H:12])[H:11])([H:8])([H:9])[H:10].[C:5]([O:6][H:13])#[N:7]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10],70.4888217570117
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2](/[C:7](=[C:6](\[C:4](=[O:5])[H:10])[H:12])[H:13])([H:11])[O:3]1,104.07385381785
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2]([H:7])[H:9])[H:6].[N:3](=[C:4]=[O:5])[H:8],74.8005862255661
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:6]=[N:7][C:4]#[C:5][H:12])[H:11])([H:9])[H:10])[H:8],88.757534726994
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[C:4](#[C:5][H:8])[H:6].[N:1](=[C:2]=[O:3])[H:7],58.8807865682892
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:2]([C@@:4]([C:3][H:11])([O:5][C:6](=[O:7])[H:13])[H:12])([H:9])[H:10])[H:8],66.6476625474985
[O:1]([C:2]([C@:3]1([H:11])[C@@:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[O:7]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],22.918827057695104
[C:4](=[C:5]([H:13])[H:14])([H:11])[H:12].[O:1]([C:2]([C:3](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],54.95418593116765
[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])(=[O:6])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C@@:4]1([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:11],98.0909011910444
[C:1]([O:2][C:5](=[C:3]1[O:4][O:6]1)[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],81.41506296996802
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[C-:3]#[C:4][C+:5]=[N:6][H:7].[O+:1]#[C-:2],73.889959584081
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N+:7]#[C:6][C:5]#[C-:4])([H:8])[H:9],95.15095391579479
[C:1](/[C:3](=[N:2]/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],92.6042389387938
[C:3](=[C:4]=[C:5]([H:8])[H:12])([C:6]#[N:7])[H:11].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],27.867053562509142
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[H:11])[C:6](=[O:7])[H:18])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],74.4976595845209
[C:1]([C:5]#[C:6][H:10])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],97.43965233401559
